US07507734B2
h) 2-(6-Chloro-3-methoxy-pyridazin-4-yl)-indole-1-carboxylic acid tert-butyl ester
Argon is passed for 30 min through a suspension of 135 mg 6-Chloro-4-iodo-3-methoxy-pyridazine, 130.5 mg 1-(tert-butoxycarbonyl)indole-2-boronic acid, 152 mg potassium carbonate, and 52.5 mg triphenylphosphine in 2.2 ml DME and 1.1 ml water. 11.2 mg palladium (II) acetate is added, and the mixture is stirred under reflux for 3 h. The product is isolated by extraction with ethyl acetate and purified by chromatography on silica gel yielding 80 mg 2-(6-Chloro-3-methoxy-pyridazin-4-yl)-indole-1-carboxylic acid tert-butyl ester

reactant | 6-Chloro-4-iodo-3-methoxy-pyridazine | 135 mg | ClC1=CC(=C(N=N1)OC)I | C5H4ClIN2O
reactant | 1-(tert-butoxycarbonyl)indole-2-boronic acid | 130.5 mg | C(C)(C)(C)OC(=O)N1C(=CC2=CC=CC=C12)B(O)O | C13H16BNO4
reactant | potassium carbonate | 152 mg | C([O-])([O-])=O.[K+].[K+]
reactant | triphenylphosphine | 52.5 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | DME | 2.2 ml | COCCOC | C4H10O2
solvent | water | 1.1 ml | O | H2O
catalyst | palladium (II) acetate | 11.2 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(6-Chloro-3-methoxy-pyridazin-4-yl)-indole-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(=CC2=CC=CC=C12)C1=C(N=NC(=C1)Cl)OC | C18H18ClN3O3
